US06352993B1
Step 1: 5,6-dimethyl-2-chloro-4-(6-methoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine
After 1-methyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline(1.3 g, 7.3 mmol) and triethylamine(1.0 ml, 7.3 mmol) were added to a suspension of 5,6-dimethyl-2,4-dichloropyrimidine(1.2 g, 6.64 mmol) in dimethylformamide, the reaction mixture was stirred for 3 hours at 85° C. The reaction mixture was cooled to a room temperature and diluted with ethyl acetate. The organic layer was washed with water and aqueous sodium hydroxide, dried over anhydrous magnesium sulfate, concentrated under a reduced pressure, and then purified by a silica gel column chromatography to give 1.7 g of the titled compound. (Yield: 78.5%)

reactant | 1-methyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 7.3 mmol, 1.3 g | CC1NCCC2=CC(=CC=C12)OC | C11H15NO
reactant | triethylamine | 7.3 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | 5,6-dimethyl-2,4-dichloropyrimidine | 6.64 mmol, 1.2 g | CC=1C(=NC(=NC1C)Cl)Cl | C6H6Cl2N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6-dimethyl-2-chloro-4-(6-methoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.7 g, Yield: 78.5% | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC=C(C=C2CC1)OC)C | C17H20ClN3O
